US07265120B2
A suspension of a mixture of 6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarboxylic acid and 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-6-phenyl-2-pyrazinecarboxylic acid (9.34 g) in o-dichlorobenzene (37 ml) was heated at 175-180° C. for 5 hours. After cooling, the reaction mixture was purified by column chromatography on silica gel. By eluting with a mixture of n-hexane and EtOAc (50:50 v/v) was obtained 2-isopropyl-6-{6-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone as a solid (4.41 g) and by eluting with a mixture of n-hexane and EtOAc (40:60 v/v) was obtained 2-isopropyl-6-{5-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone as a solid (2.38 g).

reactant | 6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-5-phenyl-2-pyrazinecarboxylic acid | C(C)(C)N1N=C(C=CC1=O)C1=C(N=C(C(=N1)C(=O)O)NCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H25N5O4
reactant | 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-3-[(4-methoxybenzyl)amino]-6-phenyl-2-pyrazinecarboxylic acid | 9.34 g | C(C)(C)N1N=C(C=CC1=O)C=1N=C(C(=NC1C1=CC=CC=C1)C(=O)O)NCC1=CC=C(C=C1)OC | C26H25N5O4
solvent | o-dichlorobenzene | 37 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-isopropyl-6-{6-[(4-methoxybenzyl)amino]-3-phenyl-2-pyrazinyl}-3(2H)-pyridazinone | 4.41 g | C(C)(C)N1N=C(C=CC1=O)C1=NC(=CN=C1C1=CC=CC=C1)NCC1=CC=C(C=C1)OC | C25H25N5O2
